US05296493
To an ice cooled solution of potassium cyanide (65 g, 1 mol) in 125 ml water, is added a mixture of formaldehyde 37% (85 ml, 1 mol) and 65 ml water, at a rate to insure that the temperature is kept below 10° C. (takes approximately 30 min). To the cooled solution is added benzoylchloride (116 ml, 1 mol) under vigourous stirring, which is continued for an additional hour. Water is added to dissolve the formed salts and the to phases are separated. The water phase is extracted repeatedly with diethylether and the combined organic phases is washed with water and brine, dried over sodiumsulphate and concentrated in vacuo. Vacuum distillation 86°-90° C./1 mbar yields benzoylglycolonitrile.

reactant | potassium cyanide | 1 mol, 65 g | [C-]#N.[K+]
reactant | formaldehyde | 1 mol, 85 ml | C=O | CH2O
reactant | benzoylchloride | 1 mol, 116 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 125 ml | O | H2O
solvent | water | 65 ml | O | H2O
product | benzoylglycolonitrile | C(C1=CC=CC=C1)(=O)C(C#N)O | C9H7NO2
